US06982348B2
A mixture of ethyl (2RS,3RS)-2-[3-(1,2-difluoro-2-methylpropyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionate (2.849 g, 7.223 mmol), sodium hydroxide (0.58 g, 14.4 mmol), methanol (10 ml), water (10 ml) and tetrahydrofuran (10 ml) was stirred overnight at room temperature. The reaction solution was concentrated, diluted with water, acidified with hydrochloric acid, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a crude product of (2RS,3RS)-2-[3-(1,2-difluoro-2-ethylpropyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid as a liquid.

reactant | ethyl (2RS,3RS)-2-[3-(1,2-difluoro-2-methylpropyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionate | 7.223 mmol, 2.849 g | FC(C(C)(C)F)C=1C=C(CC(C(=O)OCC)C(O)C2=CC=C(C=C2)F)C=CC1 | C22H25F3O3
reactant | sodium hydroxide | 14.4 mmol, 0.58 g | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2RS,3RS)-2-[3-(1,2-difluoro-2-ethylpropyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid | FC(C(C)(CC)F)C=1C=C(CC(C(=O)O)C(O)C2=CC=C(C=C2)F)C=CC1 | C21H23F3O3
